US05962285
Another preferred embodiment of the invention is the preparation of azelaic acid by biooxidation of oleic acid to form 9-octadecenedioic acid followed by oxidation of the 9-octadecenedioic acid to azelaic acid. While any grade of oleic acid can be used as the substrate, a typical technical grade oleic acid consists of the following carboxylic acids: 0.42% C12 ; 2.7% C14 ; 0.86% C14:1 ; 6.3% C16 ; 4.6% C16:1 ; 0.93% C17 ; 2.8 C18 ; 71.8% C18:1 ; 8.3% C18:2 ; 0.58% C18:3. The oleic acid can also be a high grade oleic acid obtained from a fatty oil of a Helianthus annuus (sunflower seed oil) species described, for example, in U.S. Pat. No. 4,627,192, the entire contents of which are incorporated herein by reference. Such oils are very rich in oleic acid and contain at least 80% by weight of oleic.

reactant | azelaic acid | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
product | 9-octadecenedioic acid | C(CCCCCCCC=CCCCCCCCC(=O)O)(=O)O | C18H32O4
